US05854260
A mixture of 4-amino-5-chloro-2,3-dihydro-N-(4-piperidinyl)-7-benzofurancarboxamide (0.01mol), 1-chloro-3-methoxypropane (0.012mol), N,N-diethylethanamine (2.1 ml) and KI (catalytic amount) in N,N-dimethylformamide (75 ml) was stirred overnight at 50° C. The reaction mixture was cooled. The solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CHCl3 /(CH3OH/NH3) 97/3). The pure fractions were collected and the solvent was evaporated. The residue was dissolved in 2-propanol and converted into the hydrochloric acid salt (1:1) with HCl/2-propanol. The precipitate was filtered off and dried (vacuum; 80° C.), yielding 1.40 g (35%) of 4-amino-5-chloro-2,3-dihydro-N-[1-(3-methoxypropyl)-4-piperidinyl]-7-benzofurancarboxamide monohydrochloride (comp. 1).

reactant | 4-amino-5-chloro-2,3-dihydro-N-(4-piperidinyl)-7-benzofurancarboxamide | 0.01mol | NC1=C(C=C(C2=C1CCO2)C(=O)NC2CCNCC2)Cl | C14H18ClN3O2
reactant | 1-chloro-3-methoxypropane | 0.012mol | ClCCCOC | C4H9ClO
reactant | N,N-diethylethanamine | 2.1 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 4-amino-5-chloro-2,3-dihydro-N-[1-(3-methoxypropyl)-4-piperidinyl]-7-benzofurancarboxamide monohydrochloride | 1.40 g, 35% | Cl.NC1=C(C=C(C2=C1CCO2)C(=O)NC2CCN(CC2)CCCOC)Cl | InChI=1S/C18H26ClN3O3.ClH/c1-24-9-2-6-22-7-3-12(4-8-22)21-18(23)14-11-15(19)16(20)13-5-10-25-17(13)14;/h11-12H,2-10,20H2,1H3,(H,21,23);1H
